US07414134B2
Step (i): Synthesis of (S)-6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-ol (13)
To an oven-dried 2 L round-bottomed flask equipped with an argon inlet/outlet and magnetic stirring was added (R)-2-methyl-CBS-oxazaborolidine (7.4 mL of a 1M solution in toluend, 7.4 mmol, Aldrich). Toluene (190 mL) was added and the reaction mixture was cooled in an ice-salt bath (bath temp.=−10° C.). BH3—SMe2 was added (17 mL, 180 mmol, Aldrich), then 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester (30 g, 150 mmol, Albany Molecular) in 200 mL of THF was added over 5 h using a syringe pump. After the addition was complete, the reaction mixture was stirred for an additional 1 h. The reaction mixture was allowed to stir for 72 h at RT. The reaction mixture was poured into an addition funnel, and the mixture was added to 200 mL of MeOH, cooled in a ice-salt bath, over 30 min at such a rate that the internal temperature was kept below 0° C. The mixture was concentrated in vacuo to get a solid. 1H NMR (400 MHz, DMSO-d6): δ1.35-1.50 (m, 2H), 1.55-1.75 (m, 2H), 2.30 (s, 1H), 2.35-2.60 (m, 2H), 4.22 (s, 2H), 4.33 (s, 1H), 6.78 (s, 1H), 6.87 (d, 8.0 Hz, 1H), and 7.12 (d, 8.0 Hz, 1H).

reactant | (R)-2-methyl-CBS-oxazaborolidine | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | Toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
reactant | 5-oxo-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 150 mmol, 30 g | COC(=O)C1=CC=2CCCC(C2C=C1)=O | C12H12O3
reactant | MeOH | 200 mL | CO | CH4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (S)-6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-ol | OCC=1C=C2CCC[C@@H](C2=CC1)O | C11H14O2
